US09416132B2
A mixture of compound tert-butyl 4-(aminomethyl)-2-oxopiperidine-1-carboxylate (37 mg, 0.16 mmol), DIEA (0.6 mL, 3.5 mmol), 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (50 mg) and CsF (17 mg, 0.11 mmol) in DMSO (2 mL) was stirred at 120° C. overnight. The mixture was diluted with H2O (20 mL) and CH2Cl2 (20 mL). The organic phase was separated and condensed to give crude compound tert-butyl 2-oxo-4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidine-1-carboxylate (60 mg).

reactant | tert-butyl 4-(aminomethyl)-2-oxopiperidine-1-carboxylate | 0.16 mmol, 37 mg | NCC1CC(N(CC1)C(=O)OC(C)(C)C)=O | C11H20N2O3
reactant | DIEA | 3.5 mmol, 0.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 50 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | CsF | 0.11 mmol, 17 mg | [F-].[Cs+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | H2O | 20 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-oxo-4-(((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)methyl)piperidine-1-carboxylate | 60 mg | O=C1N(CCC(C1)CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F)C(=O)OC(C)(C)C | C24H26F3N5O4
